US06465664B1
(S)-3-Isopropylcyclopentanone
General procedure B using (S)-p-tol-BINAP and 3-isopropylcyclopentenone (0.11 g, 0.9 mmol) gave, after 3 d at 0° C. and Kugelrohr distillation (0.4 torr, 220° C.) followed by flash chromatography (10:1 pentane:diethyl ether), the title compound as a clear liquid (0.10 g, 89% yield). In addition to the desired product, starting material (0.011 g, 10%) was also isolated. Spectroscopic data for the title compound were consistent with previously reported data.16 [α]D25° C.−200° (c 1.6, CHCl3) (lit.16 [α]D25° C.−110° (c 1.0, CHCl3) for 60% ee). Chiral GC analysis (Chiraldex G-TA column) indicated that the title compound was obtained in 95% ee.

reactant | (S)-p-tol-BINAP | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C | C48H40P2
reactant | 3-isopropylcyclopentenone | 0.9 mmol, 0.11 g | C(C)(C)C1=CC(CC1)=O | C8H12O
product | (S)-3-Isopropylcyclopentanone | 0.10 g, 89% yield | C(C)(C)[C@@H]1CC(CC1)=O | C8H14O
